US06365736B1
G) 2-Methyl-6,7,8,9-tetrahydronaphth[2,3-b]-1,4-oxazin-3(4H)-one
In a mixture of 10 ml of glacial acetic acid with 1.25 ml of water, 2-(5,6,7,8-tetrahydro-3-nitro-2-naphthoxy)-propionic acid ethyl ester is dissolved and mixed in portions with 960 mg of iron powder. It is heated, cooled and poured onto water. The crystals are suctioned off and washed with water, dissolved again with ethyl acetate and washed with soda solution, the organic phase is washed with brine, dried with magnesium sulfate and concentrated by evaporation. 740 mg, yield 81%, results.

reactant | water | 1.25 ml | O | H2O
reactant | 2-(5,6,7,8-tetrahydro-3-nitro-2-naphthoxy)-propionic acid ethyl ester | C(C)OC(C(C)OC1=CC=2CCCCC2C=C1[N+](=O)[O-])=O | C15H19NO5
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 960 mg | [Fe] | Fe
product | 2-Methyl-6,7,8,9-tetrahydronaphth[2,3-b]-1,4-oxazin-3(4H)-one | yield 81% | CC1C(NC2=C(O1)C=C1CCCCC1=C2)=O | C13H15NO2
